US06448205B1
Precursor β: 2,3-Dichloro-5-isopropylsulfinylpyridine
10 g (0.045 mol) of 2,3-dichloro-5-isopropylthiopyridine (as crude product) were reacted with 7.8 g (0.045 mol) of m-chloroperbenzoic acid in 60 ml of methylene chloride by a method similar to Example 1, Precursor β. After the crude product had been purified by means of flash chromatography on silica gel (eluent: cyclohexane/ethyl acetate 1:1), 1.7 g of product of value were obtained. Yield: 16%; m.p.: 62-64° C.; 1H-NMR (in d6 dimethyl sulfoxide): δ [ppm]=1.0 and 1.25 (2×d, 2×CH3); 3.2 (m, CH); 8.3 and 8.5 (2×d, pyr H).

reactant | 2,3-dichloro-5-isopropylthiopyridine | 0.045 mol, 10 g | ClC1=NC=C(C=C1Cl)SC(C)C | C8H9Cl2NS
reactant | m-chloroperbenzoic acid | 0.045 mol, 7.8 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | 2,3-Dichloro-5-isopropylsulfinylpyridine | Yield: 16% | ClC1=NC=C(C=C1Cl)S(=O)C(C)C | C8H9Cl2NOS
